US04960884
A stirred solution of 7.0 grams (0.035 mole) of methyl 4-(2-fluoroethoxy)benzoate and 75 ml of a 1.0 M solution of diisobutylaluminium hydride in hexanes in 75 ml of toluene was heated at 40° C. for three hours. The mixture was cooled and quenched with methanol. This mixture was stirred at room temperature for approximately 18 hours and was filtered through a pad of celite. The filter cake was washed with a small amount of methanol. The combined filtrate was evaporated under reduced pressure to yield 5.0 grams of 2-fluoroethyl 4-hydroxymethylphenyl ether as an oil which slowly solidified.

reactant | methyl 4-(2-fluoroethoxy)benzoate | 0.035 mole, 7.0 grams | FCCOC1=CC=C(C(=O)OC)C=C1 | C10H11FO3
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-fluoroethyl 4-hydroxymethylphenyl ether | 5.0 grams | OCC1=CC=C(C=C1)OCCF | C9H11FO2
